US04086236
6,7-Methylenedioxy-1-(2,2,2-trifluoroethyl)-4(1H)-quinolone-3-carboxylic acid
A mixture of 15.6 (0.06 mole) of 6,7-methylenedioxy-4(1H)-quinolone-3-carboxylic acid (J. Med. Chem. 11, 160 (1968)) and 1.5 g. (0.062 mole) of sodium hydride powder in 250 ml. of dimethyl formamide was heated with stirring for 0.5 hour at 80°-90° C. 2,2,2-Trifluoroethyl trichloromethanesulfonate (17.5 g. 0.62 mole) was then added dropwise. The temperature was maintained at 80°-90° for an additional two hours. The cooled mixture was poured into ice water and the solid product was isolated by filtration. It was recrystallized from ethanol. This product was identical to that obtained from Example 1.

reactant | 6,7-methylenedioxy-4(1H)-quinolone-3-carboxylic acid | C1OC=2C=C3C(C(=CNC3=CC2O1)C(=O)O)=O | C11H7NO5
reactant | sodium hydride | 0.062 mole | [H-].[Na+]
reactant | 2,2,2-Trifluoroethyl trichloromethanesulfonate | 0.62 mole, 17.5 g | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 6,7-Methylenedioxy-1-(2,2,2-trifluoroethyl)-4(1H)-quinolone-3-carboxylic acid | C1OC=2C=C3C(C(=CN(C3=CC2O1)CC(F)(F)F)C(=O)O)=O | C13H8F3NO5
